US05021576
To a solution of m-chloroaniline (25.51 g, 0.2 mol) in 100 mL of 6N HCl kept at reflux is added dropwise with stirring 85% aqueous crotonaldehyde (14.7 g, in 2.6 g of water). After an additional 45 minutes at reflux, the mixture is cooled and extracted with ethyl ether to remove tars. To the vigorously stirred solution is added ZnCl2 (27.2 g, 0.20 mol). A tan gum ball is formed. The mixture is then refluxed for a total of three hours to give a clear brown solution. Upon cooling, a gummy solid is formed which is filtered and triturated with 2-propanol followed by ethyl ether and dried in vacuo to give the quinaldine HCl-ZnCl2 complex. The 7-chloroquinaldine is then isolated by dissolving the complex into 150 mL of water and 50 mL of NH4OH, and concentrated to yield the crude product (tan solid 15.77 g, 44.4%). Purification of the crude product is achieved by flash chromatography, (silica Merck 60, methylene chloride:ethyl acetate 98:2). Removal of the solvent affords a light tan solid (11.1 g, 31.3%), m.p. dec. 68°-70° C. (lit: 42%, m.p. 75°-77° C.).

reactant | m-chloroaniline | 0.2 mol, 25.51 g | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | crotonaldehyde | 14.7 g | C(\C=C\C)=O | C4H6O
solvent | HCl | 6N, 100 mL | Cl | ClH
catalyst | ZnCl2 | 0.20 mol, 27.2 g | [Cl-].[Cl-].[Zn+2]
product | 7-chloroquinaldine | ClC1=CC=C2C=CC(=NC2=C1)C | C10H8ClN
